US05049563
6.88 mmol butyllium in hexane (4.3 ml; 1.6M) were added dropwise at -78° C. to a solution of 1.2 ml (6.88 mmol) of 2,2,6,6-tetramethylpyridine in 14 ml of dry tetrahydrofuran. The mixture was then stirred for 30 minutes at 0° C., cooled to -70° C., and added dropwise to a solution of 1-4 g (6.23 mmol) of 2,3,3a,4,5,6-hexahydro-1H-pyrido[3,2,1-jk]carbazol-1-one in 42 ml of dry tetrahydrofuran. The mixture was stirred for 90 minutes under nitrogen at -70° C. A solution of 2.4 g (6.88 mmol) of 1-triphenylmethyl-5-methyl-1H-imidazole-4-carboxaldehyde in 14 ml of dry tetrahydrofuran was then added dropwise to the reaction mixture at -70° C., and the mixture was stirred for 2 hours at -10° C. The mixture was then cooled to -70° C. and 16.8 ml of acetic acid was added dropwise. After the temperature had raised to -10° C., 8.1 g of p-toluenesulfonic acid hydrate were added. This mixture was boiled for 18 hours and evaporated in vacuum. The residue was shaken with methylene chloride and with 2N sodium hydroxide. The organic layer was separated, washed with brine, dried and evaporated. The residue was chromatographed over silicagel using methylene chloride/methanol/ammonia (92.5/7/0.5) as an eluent. 1.2 g (60%) of 2,3,3a,4,5,6-hexahydro-2-[(5-methyl-1H-imidazol-4-yl)-methylene]-1H- pyrido[3,2,1jk]carbazol-1-one were obtained. This product dissolved in 100 ml of ethanol and hydrogenated at room temperature at 1 atmosphere with palladium on carbon as a catalyst. The catalyst was removed by filtration after disappearance of the starting material, the filtrate was evaporated in vacuum, and the residue was purified by flash chromatography over silicagel using methyene chloride/methanol/ammonia (92.5/7/0.5) as an eluent. 0.49 g of the desired compound were obtained after evaporating the desired fractions.

reactant | 2,2,6,6-tetramethylpyridine | 6.88 mmol, 1.2 ml | CC1(NC(C=CC1)(C)C)C | C9H17N
reactant | 2,3,3a,4,5,6-hexahydro-1H-pyrido[3,2,1-jk]carbazol-1-one | 6.23 mmol, 1-4 g | C1(C=2C=3C=CC=CC3N3C2C(CC1)CCC3)=O | C15H15NO
reactant | 1-triphenylmethyl-5-methyl-1H-imidazole-4-carboxaldehyde | 6.88 mmol, 2.4 g | C1(=CC=CC=C1)C(N1C=NC(=C1C)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O
reactant | p-toluenesulfonic acid hydrate | 8.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | hexane | 1.6M, 4.3 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 42 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 16.8 ml | C(C)(=O)O | C2H4O2
product | 2,3,3a,4,5,6-hexahydro-2-[(5-methyl-1H-imidazol-4-yl)-methylene]-1H- pyrido[3,2,1jk]carbazol-1-one | 1.2 g, 60% | CC1=C(N=CN1)C=C1C(C=2C=3C=CC=CC3N3C2C(C1)CCC3)=O | C20H19N3O
